US05506191
d) Preparation of 1,2,3,9-tetrahydropyridino[2'3':3,4]pyrrolo[1,2-b]pyridazin-9-one
6.6 g of 2-(1,2-diethoxycarbonyl-1,2,3,6-tetrahydropyridazin-3-yl)nicotinic acid ethyl ester are mixed with 15 ml water and 60 ml of H2SO4 added with cooling. The reaction mixture is heated under nitrogen to 120° over 1 hr in a hot oil bath. The mixture is slowly poured into 125 g Na2CO3 and 250 g of ice and 125 ml of water. The alkaline mixture is filtered through celite and repeatedly extracted with ethylacetate (8×100 ml) and the extracts dried over MgSO4. After filtration the solvent is removed by evaporation under vacuum to yield the title compound which is recrystalized from CH3CN.

reactant | 2-(1,2-diethoxycarbonyl-1,2,3,6-tetrahydropyridazin-3-yl)nicotinic acid ethyl ester | 6.6 g | C(C)OC(C1=C(N=CC=C1)C1N(N(CC=C1)C(=O)OCC)C(=O)OCC)=O | C18H23N3O6
reactant | H2SO4 | 60 ml | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | 125 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 125 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 1,2,3,9-tetrahydropyridino[2'3':3,4]pyrrolo[1,2-b]pyridazin-9-one | N1N2C(=CCC1)C1=C(C2=O)C=CC=N1 | C10H9N3O
